US07030139B2
47F: 4-Ethoxy-N-[2-amino-5-[methyl(3-methyl-1-oxobutyl)amino]phenyl]-benzeneacetamide
4-Ethoxy-N-[5-[methyl(3-methyl-1-oxobutyl)amino]-2-nitrophenyl]-benzeneacetamide (1.05 g, 2.53 mmol) was dissolved in EtOAc (50 mL) containing a catalytic amount of 10% Pd/C. The solution was shaken under H2 atmosphere (35 psi) at rt overnight. The solution was filtered through celite and the solvent concentrated. LC/MS analysis showed that title compound was pure (>95%) and could directly be used for next step. Yield: 965 mg (99%). 1H NMR (400 MHz, CDCl3) δ 7.23 (d, J=8.8 Hz, 2H), 7.12 (s, 1H), 7.00 (s, 1H), 6.93 (d, J=8.8 Hz, 1H), 6.78 (m, 2H), 4.01 (q, J=7.0 Hz, 2H), 3.69 (s, 2H), 3.13 (s, 3H), 2.05 (m, 1H), 1.93 (d, J=7.2 Hz, 2H), 1.39 (t, J=7.2 Hz, 3H), 0.78 (d, J=6.8 Hz, 6H).

reactant | 4-Ethoxy-N-[5-[methyl(3-methyl-1-oxobutyl)amino]-2-nitrophenyl]-benzeneacetamide | 2.53 mmol, 1.05 g | C(C)OC1=CC=C(C=C1)CC(=O)NC1=C(C=CC(=C1)N(C(CC(C)C)=O)C)[N+](=O)[O-] | C22H27N3O5
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | [Pd] | Pd
product | 4-Ethoxy-N-[2-amino-5-[methyl(3-methyl-1-oxobutyl)amino]phenyl]-benzeneacetamide | C(C)OC1=CC=C(C=C1)CC(=O)NC1=C(C=CC(=C1)N(C(CC(C)C)=O)C)N | C22H29N3O3
